US08222263B2
A mixture of 2-chloroquinazoline (0.62 g, 2.6 mmol) and 5-amino-2-(2,6-dimethylphenyl)isoindoline-1,3-dione (0.69 g, 2.6 mmol) in n-butanol (10 mL) was heated at 120° C. until all of the butanol had evaporated. Additional butanol (10 mL) was added and the process repeated twice. After the reaction mixture was cooled, water was added (20 mL). A precipitate which formed was collected by suction filtration. N,N-Dimethylacetamide (5 mL) was added to dissolve the solid which was purified by preparative reverse-phase HPLC to give 2-(2,6-dimethylphenyl)-5-[(4-phenylquinazolin-2-yl)amino]-1H-isoindole-1,3(2H)-dione (0.26 g, 21%). 1H NMR (400 MHz, DMSO-d6): δ 10.88 (s, 1H), 8.80 (m, 1H), 8.42 (m, 1H), 7.96 (m, 1H), 7.90 (m, 2H), 7.85 (m, 1H), 7.81 (m, 2H), 7.65 (m, 3H), 7.50 (m, 1H), 7.32 (m, 1H), 7.25 (m, 2H), 2.10 (s, 6H). MS (EI) for C30H22N4O2: 471.0 (MH+).

reactant | 2-chloroquinazoline | 2.6 mmol, 0.62 g | ClC1=NC2=CC=CC=C2C=N1 | C8H5ClN2
reactant | 5-amino-2-(2,6-dimethylphenyl)isoindoline-1,3-dione | 2.6 mmol, 0.69 g | NC=1C=C2C(N(C(C2=CC1)=O)C1=C(C=CC=C1C)C)=O | C16H14N2O2
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | 2-(2,6-dimethylphenyl)-5-[(4-phenylquinazolin-2-yl)amino]-1H-isoindole-1,3(2H)-dione | 0.26 g, 21% | CC1=C(C(=CC=C1)C)N1C(C2=CC=C(C=C2C1=O)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O | C30H22N4O2
